US05612359
To 4-bromobenzoyl chloride (4.39 g, 20 mmol) in 40 mL dichloromethane at 0° C., propargylamine (1.10 g, 20 mmol) was added, followed by triethylamine (4.05 g, 40 mmol). The mixture was stirred at room temperature for 40 minutes. 150 mL ethyl acetate was added and filtered. The filtrate was washed with 2×40 mL water and 40 mL brine, dried and concentrated to give 4-Bromo-N-(2-propynyl)benzamide. 4-Bromo-N-(2-propynyl)benzamide was added into ice cooled 47 mL concentrated sulfuric acid. The reaction was stirred at 5°-10° C. for 3 hours and at room temperature overnight. The mixture was poured into 500 mL ice water, neutralized with sodium carbonate to pH 8 and extracted with 3×250 mL ethyl acetate. The combined organic extracts were washed with 200 mL water and 100 mL brine, dried and concentrated to afford compound A (4.5 g, 95%) as a light yellow solid.

reactant | 4-bromobenzoyl chloride | 20 mmol, 4.39 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | propargylamine | 20 mmol, 1.10 g | C(C#C)N | C3H5N
reactant | triethylamine | 40 mmol, 4.05 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-Bromo-N-(2-propynyl)benzamide | BrC1=CC=C(C(=O)NCC#C)C=C1 | C10H8BrNO
